US04554280
86.0 g of semicarbazide hydrochloride dissolved in 500 ml of water and 103 g of sodium acetate (CH3COONa.3H2O) were placed in a 2.5 l sulfonation flask equipped with stirrer, thermometer and dropping funnel. At an internal temperature of 40°-50° C., there was added dropwise a solution of 138.4 g of 2,3-dihydroxy-naphthaldehyde in 1000 ml of methanol. The mixture was stirred at 40°-50° C. for 1 hour and then, after adding 2 l of water, cooled to 10° C. and suction filtered. The material on the suction filter was back-washed thoroughly with water and dried at 60° C. in vacuo. Recrystallization from glacial acetic acid gave 131.9 g (73.1% of theory) of 2,3-dihydroxy-naphthaldehyde semicarbazone of melting point 210°-215° C.

reactant | semicarbazide hydrochloride | 86.0 g | Cl.NNC(=O)N
reactant | sodium acetate | 103 g | C(C)(=O)[O-].[Na+]
reactant | 2,3-dihydroxy-naphthaldehyde | 138.4 g | OC1=C(C2=CC=CC=C2C=C1O)C=O | C11H8O3
solvent | water | 500 ml | O | H2O
solvent | methanol | 1000 ml | CO | CH4O
solvent | water | 2 l | O | H2O
product | 2,3-dihydroxy-naphthaldehyde semicarbazone | 131.9 g, 73.1% | OC1=C(C2=CC=CC=C2C=C1O)C=NNC(=O)N | C12H11N3O3
